US06590118B1
A solution of 3-(2-aminophenoxy)phthalic acid dimethyl ester (200 mg, 0.54 mmol) and 3-nitrobenzaldehyde (90 mg, 0.60 mmol) in toluen (20 ml) was refluxed for 30 hours with a Dean-Stark trap. The reaction mixture is cooled to room temperature and evaporated to dryness in vacuo. The residue was dissolved in methanol (5ml), sodium cyanoborohydride (100 mg, 1.58 mmol) was added, and pH adjusted to 4.5 by means of hydrogen chloride in ether. The mixture was stirred at room temperature for 20 hours, evaporated in dryness in vacuo, and partioned between methylene chloride (5 ml) and water (5 ml). The organic phase was isolated, dried over magnesium sulphate, and evaporated to dryness in vacuo. The crude compound was purified on silica gel (eluent: methylene chloride:ethyl acetate (95:5)) to give 4-[2-(3-nitrobenzylamino)phenoxy]phthalic acid dimethyl ester as a yellow oil (yield: 130 mg (55%). 1H—NMR (CDCl3) in ppm: δ 8.05-8.18 (2H,m); 7.84 (1H,d); 7.63 (1H,d); 7.50 (1H,t); 7.20 (1H,d); 6.9-7.1 (3H,m); 6.73 (1H,d.t.); 6.6 (1H,d.d.); 4.56 (1H,broad, s): 4.48 (2H,broad s); 3.9 (3H,s); 3.87 (3H,s). LC-MS: m/e 459 (M+Na), 437 (MH+).

reactant | 3-(2-aminophenoxy)phthalic acid dimethyl ester | 0.54 mmol, 200 mg | COC(C=1C(C(=O)OC)=C(C=CC1)OC1=C(C=CC=C1)N)=O | C16H15NO5
reactant | 3-nitrobenzaldehyde | 0.60 mmol, 90 mg | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | sodium cyanoborohydride | 1.58 mmol, 100 mg | C(#N)[BH3-].[Na+]
reactant | hydrogen chloride | Cl | ClH
solvent | toluen | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | ether | CCOCC | C4H10O
product | 4-[2-(3-nitrobenzylamino)phenoxy]phthalic acid dimethyl ester | COC(C=1C(C(=O)OC)=CC(=CC1)OC1=C(C=CC=C1)NCC1=CC(=CC=C1)[N+](=O)[O-])=O | C23H20N2O7
